US06441017B1
Step H: 3-Benzyloxybenzyl Azide
To a stirred solution of 3-benzyloxybenzyl alcohol (5.0 g, 23.3 mmol) and diphenylphosphoryl azide (7.7 g, 28.0 mmol) in dry toluene (40 mL) at 0° C., was added 1,8-diazabicyclo[5.4.0]undec-7-ene (3.9 g, 25.6 mmol). The resulting mixture was allowed to warm to ambient temperature, and stirred under argon for 18 hours, then washed with water (2×15 mL), then 5% hydrochloric acid (15 mL). The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with hexane—4% EtOAc to yield the product as a colorless oil.

reactant | 3-benzyloxybenzyl alcohol | 23.3 mmol, 5.0 g | C(C1=CC=CC=C1)OC=1C=C(CO)C=CC1 | C14H14O2
reactant | diphenylphosphoryl azide | 28.0 mmol, 7.7 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 25.6 mmol, 3.9 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Benzyloxybenzyl Azide | C(C1=CC=CC=C1)OC=1C=C(CN=[N+]=[N-])C=CC1 | C14H13N3O
